US05958375
b. N,N'-bis[2,4,6-triiodo-3-(2-acetoxyacetamido)-5-(2,3-diacetoxypropylaminocarbonyl)phenyl]urea
N,N'-bis[3-amino-2,4,6-triiodo-5-(2,3-diacetoxypropylaminocarbonyl)phenyl]urea (1.0 g, 0.71 mmol) was dissolved in acetoxyacetyl chloride (5 ml) and the solution was stirred at ambient temperature for 24 h. After heating to 60° C. for 2.5 h, the solution was evaporated to dryness and the residue was triturated with water (40 ml). The tan-colored precipitate was filtered off, washed again with water (20 ml) and dried. Yield: 0.92 g (81%).

reactant | N,N'-bis[3-amino-2,4,6-triiodo-5-(2,3-diacetoxypropylaminocarbonyl)phenyl]urea | 0.71 mmol, 1.0 g | NC=1C(=C(C(=C(C1I)C(=O)NCC(COC(C)=O)OC(C)=O)I)NC(=O)NC1=C(C(=C(C(=C1I)C(=O)NCC(COC(C)=O)OC(C)=O)I)N)I)I | C29H30I6N6O11
solvent | acetoxyacetyl chloride | 5 ml | C(C)(=O)OCC(=O)Cl | C4H5ClO3
product | N,N'-bis[2,4,6-triiodo-3-(2-acetoxyacetamido)-5-(2,3-diacetoxypropylaminocarbonyl)phenyl]urea | IC1=C(C(=C(C(=C1NC(COC(C)=O)=O)I)C(=O)NCC(COC(C)=O)OC(C)=O)I)NC(=O)NC1=C(C(=C(C(=C1I)C(=O)NCC(COC(C)=O)OC(C)=O)I)NC(COC(C)=O)=O)I | C37H38I6N6O17
